US04774248
A mixture of 30.6 g (0.149 mol) of 1,3-dichloro-2-phenylpropan-2-ol, 55.5 g (0.300 mol) of potassium phthalimide and 300 ml of dimethylformamide is heated in a water bath at 100° C. for 4 h. The resulting reaction medium is cooled and evaporated until the volume has been halved, and the insoluble material formed is filtered off, washed with CH3OH and then dried to give 40 g (yield: 63%) of 1,3-diphthalimido-2-phenylpropan-2-ol.

reactant | 1,3-dichloro-2-phenylpropan-2-ol | 0.149 mol, 30.6 g | ClCC(CCl)(O)C1=CC=CC=C1 | C9H10Cl2O
reactant | potassium phthalimide | 0.300 mol, 55.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 1,3-diphthalimido-2-phenylpropan-2-ol | 40 g, yield: 63% | C1(C=2C(C(N1CC(CN1C(C=3C(C1=O)=CC=CC3)=O)(O)C3=CC=CC=C3)=O)=CC=CC2)=O | C25H18N2O5
